US04472433
A mixture of iron powder and ammonium chloride in ethanol and water and ethyl 2-[2-nitro-3-(2-chlorophenoxy)phenyl]acetate were treated in a similar manner to that of Preparation 28-(1) to give 2-oxo-7-(2-chlorophenoxy)indoline

reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl 2-[2-nitro-3-(2-chlorophenoxy)phenyl]acetate | [N+](=O)([O-])C1=C(C=CC=C1OC1=C(C=CC=C1)Cl)CC(=O)OCC | C16H14ClNO5
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
catalyst | iron | [Fe] | Fe
product | 2-oxo-7-(2-chlorophenoxy)indoline | O=C1NC2=C(C=CC=C2C1)OC1=C(C=CC=C1)Cl | C14H10ClNO2
